### PR TITLE
[Merged by Bors] - feat: super factorial written as product

### PR DESCRIPTION
**Pull request by mo271**
---

- [x] depends on: #6768 
- [x] depends on: #6840
- [x]  depends on: #7078 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Intervals.lean [hunk 1]
```diff
@@ -203,10 +203,11 @@ theorem prod_Ico_id_eq_superFactorial : ∀ n : ℕ, (∏ x in Ico 1 (n + 1), x
       prod_Ico_id_eq_superFactorial n, superFactorial, factorial, Nat.succ_eq_add_one, mul_comm]
 
 @[simp]
-theorem prod_range_add_one_eq_superFactorial : ∀ n : ℕ, (∏ x in range n, (x + 1) !) = sf n
+theorem prod_range_add_one_eq_superFactorial : ∀ n : ℕ, (∏ x in range n, (x.succ) * x !) = sf n
```
Comment (mo271) [inline Mathlib/Algebra/BigOperators/Intervals.lean:206]: I wonder if there is some other way than chaning `(x + 1) !` to 'x.succ * x` to satisfy the simpNF linter..

Comment (mo271) [reply Mathlib/Algebra/BigOperators/Intervals.lean]: yes, that works. 
I will try what breaks if Nat.factorial_succ isn't a simp lemma...

Comment (mo271) [reply Mathlib/Algebra/BigOperators/Intervals.lean]: https://github.com/leanprover-community/mathlib4/pull/6840 seems like nothing breaks

File: Mathlib/Algebra/BigOperators/Intervals.lean [hunk 2]
```diff
@@ -194,6 +195,21 @@ theorem prod_range_add_one_eq_factorial : ∀ n : ℕ, (∏ x in range n, (x + 1
...
 #align finset.prod_range_add_one_eq_factorial Finset.prod_range_add_one_eq_factorial
 
+@[simp]
+theorem prod_Ico_id_eq_superFactorial : ∀ n : ℕ, (∏ x in Ico 1 (n + 1), x !) = sf n
+  | 0 => rfl
+  | n + 1 => by
+    rw [prod_Ico_succ_top <| Nat.succ_le_succ <| Nat.zero_le n, Nat.factorial_succ,
+      prod_Ico_id_eq_superFactorial n, superFactorial, factorial, Nat.succ_eq_add_one, mul_comm]
+
+-- (x + 1) is simplified to (x + 1) * x !
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Intervals.lean:205]:
```suggestion
-- `(x + 1)!` is simplified to `(x + 1) * x!`
```

File: Mathlib/Algebra/BigOperators/Intervals.lean [hunk 3]
```diff
@@ -194,6 +195,21 @@ theorem prod_range_add_one_eq_factorial : ∀ n : ℕ, (∏ x in range n, (x + 1
   | n + 1 => by simp [Finset.range_succ, prod_range_add_one_eq_factorial n]
 #align finset.prod_range_add_one_eq_factorial Finset.prod_range_add_one_eq_factorial
 
+@[simp]
+theorem prod_Ico_id_eq_superFactorial : ∀ n : ℕ, (∏ x in Ico 1 (n + 1), x !) = sf n
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Intervals.lean:199]:
```suggestion
theorem prod_Ico_factorial_eq_superFactorial : ∀ n : ℕ, (∏ x in Ico 1 (n + 1), x !) = sf n
```

File: Mathlib/Algebra/BigOperators/Intervals.lean (hunk 1 above)
Comment (mo271) [reply Mathlib/Algebra/BigOperators/Intervals.lean]: Even after #6840, we still need the `nolint`, since `factorial` still simplifies, because of https://github.com/leanprover-community/mathlib4/blob/f91160c3b897ef9698cd3706d2330c3b59fdb3e8/Mathlib/Data/Nat/Factorial/Basic.lean#L30

I considered removing the `simp` from the factorial here: #7078

However, it having the `simp` for the factorial seem to be useful in some cases.
What do you think, @alreadydone?

**Comment by mo271** [comment]
Will produce an easily solvable merge conflict with #6827

File: Mathlib/Algebra/BigOperators/Intervals.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/Algebra/BigOperators/Intervals.lean]: I left a comment on #7078. I would prefer to make this PR (#6806) depend on that one (#7078).

Comment (mo271) [reply Mathlib/Algebra/BigOperators/Intervals.lean]: added dependency. Will make the needed changes one #7078 is resolved

Comment (mo271) [reply Mathlib/Algebra/BigOperators/Intervals.lean]: done

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 4]
```diff
@@ -47,6 +48,23 @@ theorem superFactorial_one : sf 1 = 1 :=
 theorem superFactorial_two : sf 2 = 2 :=
   rfl
 
+open BigOperators Finset
+
+@[simp]
+theorem prod_Ico_factorial_eq_superFactorial : ∀ n : ℕ, (∏ x in Ico 1 (n + 1), x !) = sf n
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:54]:
```suggestion
theorem prod_Ico_factorial_eq_superFactorial : ∀ n : ℕ, (∏ x in Icc 1 n, x !) = sf n
```

Comment (mo271) [reply Mathlib/Data/Nat/Factorial/SuperFactorial.lean]: done.

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 5]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Moritz Firsching
 -/
 import Mathlib.Data.Nat.Factorial.Basic
+import Mathlib.Algebra.BigOperators.Intervals
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:7]:
```suggestion
import Mathlib.Algebra.BigOperators.Intervals
import Mathlib.Data.Nat.Factorial.Basic
```

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 6]
```diff
@@ -47,6 +48,23 @@ theorem superFactorial_one : sf 1 = 1 :=
...
+@[simp]
+theorem prod_Icc_factorial : ∀ n : ℕ, (∏ x in Icc 1 n, x !) = sf n
+  | 0 => rfl
+  | n + 1 => by
+    rw [← Ico_succ_right 1 n.succ, prod_Ico_succ_top <| Nat.succ_le_succ <| Nat.zero_le n,
+    Nat.factorial_succ, Ico_succ_right 1 n, prod_Icc_factorial n, superFactorial, factorial,
+    Nat.succ_eq_add_one, mul_comm]
+
+@[simp]
+theorem prod_range_add_one_eq_superFactorial : ∀ n : ℕ, (∏ x in range n, (x + 1) !) = sf n
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:62]:
```suggestion
theorem prod_range_factorial_succ : ∀ n : ℕ, ∏ x in range n, (x + 1)! = sf n
```

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 7]
```diff
@@ -47,6 +48,22 @@ theorem superFactorial_one : sf 1 = 1 :=
 theorem superFactorial_two : sf 2 = 2 :=
   rfl
 
+open BigOperators Finset
+
+@[simp]
+theorem prod_Icc_factorial : ∀ n : ℕ, (∏ x in Icc 1 n, x !) = sf n
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:54]:
```suggestion
theorem prod_Icc_factorial : ∀ n : ℕ, ∏ x in Icc 1 n, x! = sf n
```

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 8]
```diff
@@ -51,7 +51,7 @@ theorem superFactorial_two : sf 2 = 2 :=
 open BigOperators Finset
 
 @[simp]
-theorem prod_Icc_factorial : ∀ n : ℕ, (∏ x in Icc 1 n, x !) = sf n
+theorem prod_Icc_factorial : ∀ n : ℕ, ∏ x in Icc 1 n, x! = sf n
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:54]: Ah, that's annoying 😦 
```suggestion
theorem prod_Icc_factorial : ∀ n : ℕ, ∏ x in Icc 1 n, x ! = sf n
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge
